US07795326B2
Preparation of Poly(TRIS/NIPAM/benzyl methacrylate)—3/1/0.1 parts by weight
A 25 ml reaction vessel was charged with 11.86 g ethyl acetate, 3 g (0.007 mol) TRIS, 1 g (0.009 mol) NIPAM, 0.14 g (0.0008 mol) benzyl methacrylate and 0.082 g. 2,2′-azobis(2-methylbutanenitrile). After nitrogen flushing for 3 minutes, the vessel was closed and placed in an oil bath. The polymerization was run for 6 hours at 70-78° C. The polymer was precipitated into water, filtered, dissolved in acetone, precipitated in water and dried at 50° C. The polymer was compatible with HMDS at 10 wt % polymer in the liquid with the presence of macroscopic gel particles.

reactant | NIPAM | 0.009 mol, 1 g | CC(C)NC(=O)C=C | C6H11NO
reactant | benzyl methacrylate | 0.0008 mol, 0.14 g | C(C(=C)C)(=O)OCC1=CC=CC=C1 | C11H12O2
reactant | 2,2′-azobis(2-methylbutanenitrile) | N(=NC(C#N)(CC)C)C(C#N)(CC)C | C10H16N4
solvent | ethyl acetate | 11.86 g | C(C)(=O)OCC | C4H8O2
product | NIPAM benzyl methacrylate | CC(C)NC(=O)C=C.C(C(=C)C)(=O)OCC1=CC=CC=C1 | InChI=1S/C11H12O2.C6H11NO/c1-9(2)11(12)13-8-10-6-4-3-5-7-10;1-4-6(8)7-5(2)3/h3-7H,1,8H2,2H3;4-5H,1H2,2-3H3,(H,7,8)
